Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Left-sided weakness
 
Major Surgical or Invasive Procedure:
Mechanical thrombectomy
 
History of Present Illness:
___ (aka ___ is a ___ yo woman with
history of HTN who presents as a transfer from ___ s/p tPA
with left-sided weakness. 

Ms. ___ was LKW at 0030 when she went to bed. Her husband
woke between 0200 and 0230 to a 'thump', and found her on the
floor.  She wasn't moving her left side. EMS brought her to
___ and she received tPA at 0308. She was
subsequently transferred to ___, arriving around 0400. 

On arrival to ___, NIHSS was 16 with R MCA syndrome. CTA and 
CT
perfusion were performed, which showed R M1 cutoff. After CT,
NIHSS improved to 14, with her improving from plegic to barely
antigravity in the LUE. 
She was subsequently taken to thrombectomy suite. 

 
Past Medical History:
HTN
osteoarthritis
glaucoma
hx gastritis

 
Social History:
___
Family History:
M: HTN, smoker, PVD, passed away in her ___
F: HTN, passed away in his ___

 
Physical Exam:
ADMISSION EXAMINATION

Vitals:  T: 97.4 HR: 64 BP: 115/51 RR: 23 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Slightly sleepy, keeps eyes closed but opens
briskly to voice. Able to relate history without difficulty.
Attentive, able to name ___ backward with some supplementation
from husband. ___ reduction in speech output, but reaches
fluency. No paraphasic errors. Naming intact to low frequency
words. Repetition intact. Comprehension intact to appendicular
commands. Says that her left hand belongs to the examiner. 

-Cranial Nerves: PERRL 3->2. NO BTT on L. R gaze deviation,
crosses midline with VOR. L facial droop. Hearing intact to
conversation. Dysarthric

- Motor:  Normal bulk and tone. LUE no movement to noxious. LLE
briefly antigravity but does not sustain. Gives at least some
effort at L quadriceps and hamstring, 2 L TA. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   0                        
 R  2  2    2    2   0                           

-Sensory: Decreased sensation to LT, PP and noxious L hemibody,
but is able to grossly localize noxious in LUE (i.e. hand,
shoulder). 

- Coordination: No dysmetria with finger to nose testing on R.
UTA on L. 

- Gait: UTA given post-tPA restrictions

DISCHARGE EXAMINATION

 Vitals: T: 98.4 BP: 123/86 HR: 61 RR: 18 SpO2: 99% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x 3. Language is fluent with
intact comprehension. Able to follow both midline and
appendicular commands. 

-Cranial Nerves: EOMI without nystagmus. Facial sensation intact 
to light touch. L NLFF. Hearing intact to conversation. Palate 
elevates symmetrically. ___ strength in trapezii bilaterally. 
Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted.
   Delt Bic Tri WrE FE IO IP Quad Ham TA
 L  5    ___  ___   5    4+ 5  
 R  5    ___  ___   5    5  5   

-Sensory: Intact to LT throughout.

-DTRs: ___.

-Coordination: No dysmetria on FTN bilaterally.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 09:40AM BLOOD WBC-7.4 RBC-4.22 Hgb-13.0 Hct-39.4 MCV-93 
MCH-30.8 MCHC-33.0 RDW-13.2 RDWSD-45.3 Plt ___
___ 09:40AM BLOOD Glucose-115* UreaN-14 Creat-0.9 Na-144 
K-4.4 Cl-107 HCO3-21* AnGap-16
___ 09:40AM BLOOD Calcium-9.7 Mg-2.1
___ 04:17AM BLOOD Triglyc-204* HDL-25* CHOL/HD-6.0 
LDLcalc-83
___ 05:06AM BLOOD %HbA1c-5.8 eAG-120
___ 04:17AM BLOOD TSH-3.5

IMAGING

TTE (Complete) Done ___ at 10:26:42 AM
Mild-moderate mitral regurgitation with normal valve morphology. 
Normal biventricular cavity sizes with preserved regional and 
global biventricular systolic function. No definite structural 
cardiac source of embolism identified.

___ 4:16 AM ED STROKE CTA HEAD & NECK 
Abrupt occlusion of the mid M1 segment of the right MCA. 
No obvious hypodense changes in the distribution of the right 
MCA to suggest infarct core.  Aspects score of 10. 
Please take note of unknown reliability of the perfusion part a 
as described above, but within these constraints it suggests 
that most of the brain parenchyma in the distribution of the 
right MCA is at risk, but still viable at this time point. 

___ 5:13 AM NEURO INTERVENTION(OTHER) 
TICI 3, complete recanalization, a right MCA stroke after a 
single pass with a Trevo stentriever.  Patient received systemic 
tPA. 

___ 4:48 ___ CHEST (PORTABLE AP) 
No acute cardiopulmonary abnormality.

___ 2:56 AM CT HEAD W/O CONTRAST 
1. No evidence of intracranial hemorrhage. 
2. Hypodensity in the right basal ganglia (involving the right 
caudate and 
putamen), compatible with an evolving right middle cerebral 
artery infarction is noted. 
3. Additional findings described above. 

___ 2:13 AM MR HEAD W/O CONTRAST 
Multiple infarcts in the distribution of the right MCA as 
described above. 
No hemorrhagic transformation. 
 
Brief Hospital Course:
___ with history notable for palpitations (on atenolol), 
glaucoma, ___ transferred from ___ after presenting 
with left-sided paresis, s/p tPA (at ___ at 03:08) and 
thrombectomy (at ___ around 06:00) with TICI 3 reperfusion. 
Exam notable for left nasolabial fold flattening and mild left 
leg weakness in an upper motor neuron pattern. She was started 
on aspirin and atorvastatin. Etiology thought to be either 
cardioembolic versus artery-to-artery due to intracranial 
carotid atherosclerosis. TTE did not show thrombus or PFO. 
Evaluation by physical therapy recommended outpatient physical 
therapy following discharge to home.

Transitional issues:
- Please arrange for four weeks of cardiac monitoring to assess 
for underlying atrial fibrillation.
- Please arrange for ___ with Neurology as an outpatient.
 
Medications on Admission:
1. Atenolol 25 mg PO DAILY 
2. Oxybutynin 5 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 (One) tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*28 Tablet Refills:*0 
3.  Atenolol 25 mg PO DAILY  
4.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  Oxybutynin 5 mg PO DAILY  
7.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right MCA ischemic stroke s/p tPA and thrombectomy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of left sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- elevated cholesterol (LDL)
 
We are changing your medications as follows:  
-START ASPIRIN 81MG DAILY
-START ATORVASTATIN 40MG NIGHTLY 
  
Please take your other medications as prescribed.  

You will need to have heart rhythm monitoring done as an 
outpatient to look for atrial fibrillation, which is an abnormal 
heart rhythm that can increase your risk of stroke. As monitors 
were not available in the hospital prior to discharge, your 
primary care provider can help arrange for this testing after 
leaving the hospital.
 
Please ___ with Neurology and your primary care physician. 
 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___